US08466186B2
(b) 4-Chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine
A mixture of tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate (790 mg, 1.38 mmol), TFA (1.54 mL, 20.7 mmol) and DCM (30 mL) was stirred at rt overnight. The mixture was cooled to 0° C., basicified to pH ˜10 and extracted with DCM. The organic layer was dried over Na2SO4, filtered and concentrated and the residue was washed with Et2O/PE.

reactant | tert-butyl N-{4-chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzyl}-carbamate | 1.38 mmol, 790 mg | ClC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C26H30Cl2F3N5O2
reactant | TFA | 20.7 mmol, 1.54 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C21H22Cl2F3N5
